* tb_cdac_cap -- CDAC unit-capacitor characterization
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end, plus the PDK-variant-bound
* `mim_cap_<density>` aliases (see sim/harness/runner.py: the PDK names its
* MIM subckts after the metal pair the capacitor sits between, which is a
* variant property, so no testbench in this repo hardcodes a metal stack).
*
* Each capacitor is probed with a 1 A AC current source; the harness's
* measure block converts the resulting node voltage magnitude at 1 MHz into
* an effective capacitance, C = 1 / (2*pi*f*|V|). The 1 MHz probe frequency
* is written literally in both the manifest's `analyses` and its `measure`
* expressions: `.param` values live in netlist scope and are NOT visible to
* ngspice's .control block, so a shared symbol is not available here.
*
* Why this exists: the MOS corners (tt/ff/ss/fs/sf) leave BOTH capacitor
* families at typical, so nothing in a MOS-only sweep would ever notice a
* broken mimcap/moscap .lib include. A 10-bit CDAC's linearity rides on the
* unit cap, so the cap sections must be demonstrably live.
*
* NOTE on MoM: the open gf180mcu PDK ships no MoM / lateral-flux capacitor
* model, so there is no MoM section to sweep here. See sim/harness/README.md.

vsup vdd 0 dc {vdd_val}

* --- MiM unit cap, 2.0 fF/um^2 flavor, 10 um x 10 um.
*     Bottom plate grounded; AC current probe on the top plate.
iac_mim2 nmim2 0 ac 1
Xcmim2 nmim2 0 mim_cap_2f0 c_width=10u c_length=10u

* --- MiM unit cap, 1.0 fF/um^2 flavor, same geometry, for density ratio
iac_mim1 nmim1 0 ac 1
Xcmim1 nmim1 0 mim_cap_1f0 c_width=10u c_length=10u

* --- 3.3 V NMOS capacitor biased to vdd (accumulation): the alternative
*     unit-cap device, and the one with a real voltage coefficient.
Rbias vdd nmos 1g
iac_mos nmos 0 ac 1
Xcmos nmos 0 cap_nmos_03v3 c_width=10u c_length=10u
